US05660598
N-(1-methylbutyl)aniline was prepared from aniline and propan-2-one using the same method as in Example 2i)a).

reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | propan-2-one | CC(C)=O | C3H6O
product | N-(1-methylbutyl)aniline | CC(CCC)NC1=CC=CC=C1 | C11H17N
